US07507812B2
Benzenesulfonyl bromide was synthesized with 1316.0 g of the mother liquid containing sodium benzenesulfinate by procedures similar to those of the fourth step and the fifth step of Example 1 except that bromine was used instead of chlorine in the fifth step. Thus, 36.0 g of benzenesulfonyl bromide was yielded. Gas chromatographic analysis revealed that the concentration of benzenesulfonyl bromide in the organic layer was 81.3% (weight; 29.27 g, 0.133 mole), and the yield was 94.4%.

reactant | sodium benzenesulfinate | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | bromine | BrBr | Br2
product | benzenesulfonyl bromide | 36.0 g | C1(=CC=CC=C1)S(=O)(=O)Br | C6H5BrO2S
